* c:\users\soham\desktop\digtri\digtri.cir

v1  net-_u1-pad1_ gnd pulse(0 5 0 35ms 35ms 35ms 35ms)
r1  net-_r1-pad1_ out 1k
r2  net-_r2-pad1_ out 1k
r3  net-_r3-pad1_ out 1k
r4  net-_r4-pad1_ out 1k
r5  net-_r5-pad1_ out 1k
* u6  net-_u5-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u6-pad5_ ? d_dff
* u5  net-_u4-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u5-pad5_ ? d_dff
* u4  net-_u3-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u4-pad5_ ? d_dff
* u3  net-_u2-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u3-pad5_ ? d_dff
* u2  net-_u2-pad1_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u2-pad5_ ? d_dff
v2  dc 0
* u1  net-_u1-pad1_ clk adc_bridge_1
* u12  out plot_v1
* u7  net-_u6-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u7-pad5_ net-_u2-pad1_ d_dff
* u9  clk plot_v1
* u13  dc_in plot_v1
* u10  gnd net-_u10-pad2_ adc_bridge_1
* u11  dc_in net-_u11-pad2_ adc_bridge_1
* u8  net-_u2-pad5_ net-_u3-pad5_ net-_u4-pad5_ net-_u5-pad5_ net-_u6-pad5_ net-_u7-pad5_ net-_r1-pad1_ net-_r4-pad1_ net-_r3-pad1_ net-_r2-pad1_ net-_r5-pad1_ net-_r6-pad2_ dac_bridge_6
r6  out net-_r6-pad2_ 1k
c1  out gnd 150uf
a1 net-_u5-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u6-pad5_ ? u6
a2 net-_u4-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u5-pad5_ ? u5
a3 net-_u3-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u4-pad5_ ? u4
a4 net-_u2-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u3-pad5_ ? u3
a5 net-_u2-pad1_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u2-pad5_ ? u2
a6 [net-_u1-pad1_ ] [clk ] u1
a7 net-_u6-pad5_ clk net-_u11-pad2_ net-_u10-pad2_ net-_u7-pad5_ net-_u2-pad1_ u7
a8 [gnd ] [net-_u10-pad2_ ] u10
a9 [dc_in ] [net-_u11-pad2_ ] u11
a10 [net-_u2-pad5_ net-_u3-pad5_ net-_u4-pad5_ net-_u5-pad5_ net-_u6-pad5_ net-_u7-pad5_ ] [net-_r1-pad1_ net-_r4-pad1_ net-_r3-pad1_ net-_r2-pad1_ net-_r5-pad1_ net-_r6-pad2_ ] u8
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u6 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u5 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u4 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u3 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u2 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u7 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_6, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 20e-03 5000e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(clk)
plot v(dc_in)
.endc
.end
